.include Enable.sub
.include AdderSubtractor.sub
.include Comparator.sub
.include And.sub
.include Decoder.v
.include OR3IN.sub

.subckt ALU CarryOut Out3 Out2 Out1 Out0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 Sel1 Sel0 vdd gnd
    X1 D3 D2 D1 D0 Sel1 Sel0 vdd gnd Decoder
    X2 t1 D0 D1 vdd gnd OR2IN
    X3 AinAnd3 AinAnd2 AinAnd1 AinAnd0 BinAnd3 BinAnd2 BinAnd1 BinAnd0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 D3 vdd gnd Enable
    X4 AinAdd3 AinAdd2 AinAdd1 AinAdd0 BinAdd3 BinAdd2 BinAdd1 BinAdd0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 t1 vdd gnd Enable
    X5 AinComp3 AinComp2 AinComp1 AinComp0 BinComp3 BinComp2 BinComp1 BinComp0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 D2 vdd gnd Enable
    X6 s3 s2 s1 s0 CarryOut node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 D1 vdd gnd AdderSubtractor
    X7 Greater Equal Less node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 D2 vdd gnd Comparator
    X8 OutAnd3 OutAnd2 OutAnd1 OutAnd0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 vdd gnd And
    X9 Out0 s0 Equal OutAnd0 vdd gnd OR3IN
    X10 Out1 s1 Less OutAnd1 vdd gnd OR3IN
    X11 Out2 s2 Greater OutAnd2 vdd gnd OR3IN
    X12 Out3 s3 OutAnd0 vdd gnd OR2IN
.ends ALU